US05371096
To a solution of 1.37 g (0.00272 mole) of (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran in 14 ml of methanol, hydrogen chloride gas is bubbled until the pH of the solution is brought to 3. The mixture is stirred at room temperature for 1 h and evaporated. The residue is triturated with ethyl acetate and neutralized with concentrated aqueous sodium bicarbonate. The aqueous layer is extracted once more with ethyl acetate and the combined organic extracts are dried (MgSO4) and evaporated. The residue is purified by flash chromatography using methylene chloride-methanol-ammonium hydroxide (300:25:1) as eluent to give (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran as an oil having [α]D25 =+89.78° (MeOH).

reactant | (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran | 0.00272 mole, 1.37 g | C1(=CC=C(C=C1)CO[C@@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCCO[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C31H41NO3Si
solvent | methanol | 14 ml | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | (2S,3S,4R)-4-(biphenyl-4-ylmethoxy)-3-(3-hydroxyprop-1-yl)-2-(3-pyridyl)tetrahydrofuran | C1(=CC=C(C=C1)CO[C@@H]1[C@H]([C@H](OC1)C=1C=NC=CC1)CCCO)C1=CC=CC=C1 | C25H27NO3
